US06887871B2
a) N-Methoxy-N-methyl-3-thiophene carboxamide
3-Thiophene carboxylic acid (10.04 g, 78.3 mmol) was dissolved in dichloromethane (250 ml) and 4-dimethylaminopyridine (9.57 g, 78.3 mmol), N,O-dimethylhydroxylamine hydrochloride (7.64 g, 78.3 mmol), N-methylmorpholine (8.6 ml, 78.3 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (15.01 g, 78.3 mmol) added and the resultant solution stirred for 24 h at room temperature. The reaction was diluted with dichloromethane (100 ml) and washed with aqueous 2M hydrochloric acid (3×30 ml), aqueous saturated sodium bicarbonate solution (2×30 ml) and water (3×30 ml). The organic phase was dried (magnesium sulphate), filtered and evaporated to give the title compound as a colourless oil (12.3 g, 92%).

reactant | 3-Thiophene carboxylic acid | 78.3 mmol, 10.04 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | N,O-dimethylhydroxylamine hydrochloride | 78.3 mmol, 7.64 g | Cl.CNOC
reactant | N-methylmorpholine | 78.3 mmol, 8.6 ml | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 78.3 mmol, 15.01 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 78.3 mmol, 9.57 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-Methoxy-N-methyl-3-thiophene carboxamide | 12.3 g, 92% | CON(C(=O)C1=CSC=C1)C | C7H9NO2S
